US06075021
6-Chloro-2-(2-methoxyethyl)-N,N,9-trimethyl-1-oxo-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-4-carboxamide
The preparation is carried out as in Example 1.5, from 8.3 g (26 mmol) of (±)-6-chloro-2-(2-methoxyethyl)-9-methyl-1-oxo-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-4-carboxylic acid and from dimethylamine. 8.6 g of product are isolated, which product is recrystallized from propan-2-ol. 6.9 g (19 mmol) of product are obtained.

reactant | (±)-6-chloro-2-(2-methoxyethyl)-9-methyl-1-oxo-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-4-carboxylic acid | 26 mmol, 8.3 g | ClC=1C=C2C3=C(N(C2=CC1)C)C(N(CC3C(=O)O)CCOC)=O | C16H17ClN2O4
reactant | dimethylamine | CNC | C2H7N
product | 6-Chloro-2-(2-methoxyethyl)-N,N,9-trimethyl-1-oxo-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-4-carboxamide | 8.6 g | ClC=1C=C2C3=C(N(C2=CC1)C)C(N(CC3C(=O)N(C)C)CCOC)=O | C18H22ClN3O3
